US07968535B2
7,8-Dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-[(3,5-dichlorophenyl)hydrazone]
Prepared according to general procedure A from 338.5 mg (1.92 mmol) 5H-pyrido[3,2-b]azepine-6,9(7H,8H)-dione, 452 mg (2.11 mmol) (3,5-dichlorophenyl)hydrazine hydrochloride, and 169 mg (2.11 mmol) sodium acetate. Recrystallization from ethanol afforded a beige powder. Yield: 213 mg (33%); m.p. 270° C. (dec.); IR (KBr): 3281 cm−1 (NH), 3067/3029 cm−1 (CH-arom.), 2892 cm−1 (CH-aliph.), 1671 cm−1 (C═O); 1H-NMR (DMSO-d6, 400 MHz): δ (ppm)=2.57-2.60 (m, 2H, azepine-CH2, part of AA′XX′-system), 3.02-3.05 (m, 2H, azepine-CH2, part of AA′XX′-system), 6.91-6.92 (m, 1H, arom. H), 7.16 (d, 2H, 1.9 Hz, arom. H), 7.37-7.44 (m, 2H, arom. H), 8.44 (dd, 1H, 4.2/1.8 Hz, arom. H), 9.72 (s, 1H, NH), 9.81 (s, 1H, NH); C15H12Cl2N4O (335.20).

reactant | 5H-pyrido[3,2-b]azepine-6,9(7H,8H)-dione | 1.92 mmol, 338.5 mg | N1=CC=CC=2NC(CCC(C21)=O)=O | C9H8N2O2
reactant | (3,5-dichlorophenyl)hydrazine hydrochloride | 2.11 mmol, 452 mg | Cl.ClC=1C=C(C=C(C1)Cl)NN
reactant | sodium acetate | 2.11 mmol, 169 mg | C(C)(=O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
product | 7,8-Dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-[(3,5-dichlorophenyl)hydrazone] | ClC=1C=C(C=C(C1)Cl)NN=C1C2=C(NC(CC1)=O)C=CC=N2 | C15H12Cl2N4O
